US06677349B1
Using the general method of Example 242, 1-(8-aminooctyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.2 g, 3.26 mmol) was reacted with methanesulfonyl chloride (260 μL, 3.26 mmol) to provide 0.70 g of N-[8-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)octyl]methanesulfonamide as a tan powder, m.p. 121-124° C. Analysis: Calculated for C23H35N5O3S: %C, 61.99: %H, 7.92; %N, 15.72; Found: %C, 62.01; %H, 7.97; %N, 15.75.

reactant | 1-(8-aminooctyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.26 mmol, 1.2 g | NCCCCCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C22H33N5
reactant | methanesulfonyl chloride | 3.26 mmol, 260 μL | CS(=O)(=O)Cl | CH3ClO2S
product | N-[8-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)octyl]methanesulfonamide | 0.70 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCCCCCNS(=O)(=O)C)CCCC | C23H35N5O2S
